US07705023B2
1-(4-Isopropoxyphenyl)-5-(4-(trifluoromethyl)phenyl)-indole-2-carboxylic acid
The title compound was prepared in accordance with Example 1, using 5-bromoindole-2-carboxylic acid ethyl ester, 4-(trifluoromethyl)phenyl-boronic acid and 4-bromo-1-isopropoxybenzene.

reactant | 5-bromoindole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1NC2=CC=C(C=C2C1)Br | C11H10BrNO2
reactant | 4-(trifluoromethyl)phenyl-boronic acid | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
reactant | 4-bromo-1-isopropoxybenzene | BrC1=CC=C(C=C1)OC(C)C | C9H11BrO
product | 1-(4-Isopropoxyphenyl)-5-(4-(trifluoromethyl)phenyl)-indole-2-carboxylic acid | C(C)(C)OC1=CC=C(C=C1)N1C(=CC2=CC(=CC=C12)C1=CC=C(C=C1)C(F)(F)F)C(=O)O | C25H20F3NO3
